US07612114B2
Synthesized from 2-chloro-N-ethyl-N-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]acetamide and pyrrolidine according to an analogous synthetic method to Preparation EXAMPLE 89, N-ethyl-N-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]-2-pyrrolidin-1-ylacetamide (119 mg) was used according to an analogous synthetic method to Example 337 described below to provide ethyl [5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl](2-pyrrolidin-1-ylethyl)amine (96 mg). This compound (95 mg) was used according to an analogous synthetic method to Example 111 described below to provide the title compound (92 mg).

reactant | 2-chloro-N-ethyl-N-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]acetamide | ClCC(=O)N(C1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC)CC | C22H26ClNO3
reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | N-ethyl-N-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]-2-pyrrolidin-1-ylacetamide | 119 mg | C(C)N(C(CN1CCCC1)=O)C1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC | C26H34N2O3
product | ethyl [5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl](2-pyrrolidin-1-ylethyl)amine | 96 mg | C(C)N(CCN1CCCC1)C1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC | C26H36N2O2
